US05556864
37(a) 1-t-Butoxycarbonyl-4-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}piperidine
Following a procedure similar to that described in Example 36(a), 456 mg of 2-[2-(3-methoxyphenyl)ethyl]phenol (prepared as described in Preparation 20), 600 mg of 1-t-butoxycarbonyl-4-hydroxypiperidine and 865 mg of triphenylphosphine were reacted with 575 mg of diethyl azodicarboxylate in 30 ml of methylene chloride. The reaction mixture was worked up as described in Example 6(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 379 mg (yield 46%) of the title compound as a colorless oil.

reactant | 2-[2-(3-methoxyphenyl)ethyl]phenol | 456 mg | COC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C15H16O2
reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 600 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 865 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 575 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-t-Butoxycarbonyl-4-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}piperidine | 379 mg, yield 46% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)CCC1=CC(=CC=C1)OC | C25H33NO4
